US07951811B2
Synthesis of 3-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5,6-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-propionamide (compound 1-040)
To 3-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5,6-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-propionitrile (0.40 g), H2SO4 (4 mL) was added and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into ice, and then was made to alkaline by adding 4 M aqueous NaOH solution. The mixture was extracted with ethyl acetate and the organic phase and the organic phase was dried over Na2SO4. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified with column chromatography (silica gel: Wako gel C200, eluent: CHCl3:methanol=60/1) to obtain an oil. The oily product was crystallized from diethylether to obtain the title compound (0.33 g) as a white crystal.

reactant | 3-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5,6-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-propionitrile | 0.40 g | BrC1=CC(=C(C(=C1)C)N1C(=C(C2=C1N=C(N=C2N2CCC(CC2)CCC#N)C)C)C)C | C25H30BrN5
reactant | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | 4 M | [OH-].[Na+]
product | 3-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5,6-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-propionamide | 0.33 g | BrC1=CC(=C(C(=C1)C)N1C(=C(C2=C1N=C(N=C2N2CCC(CC2)CCC(=O)N)C)C)C)C | C25H32BrN5O
